US06265352B1
b) 3-(Tetrahydropyran-2-yl)methylthio-1,2,4-triazole
9.7 g (173 mmol) of potassium hydroxide and 17.5 g (173 mmol) of 3-mercapto-1,2,4-triazole were dissolved in 200 ml of methanol and heated under reflux for one hour. After the solvent had been distilled off under reduced pressure, the residue was dried by azeotropic distillation with toluene and then taken up in 300 ml of methanol. 33.6 g (173 mmol) of tetrahydropyran-2-ylmethyl methanesulfonate (step a) were then added and the mixture was stirred at room temperature for 24 hours. 200 ml of water and 200 ml of methyl tert-butyl ether were then added to the reaction mixture and the organic phase was separated off, washed with water and dried. The mixture was concentrated and the residue was chromatographed over silica gel, yielding 18.2 g (53% of theory) of a yellow oil. (1H-NMR (CDCl3; δ in ppm): 8.05 (s,1H); 4.15 (d,1H); 3.65 (m,1H); 3.50 (m,1H); 3.25-3.10 (m,2H); 1.85 (m,1H); 1.75-1.25 (m,6H))

reactant | potassium hydroxide | 173 mmol, 9.7 g | [OH-].[K+]
reactant | 3-mercapto-1,2,4-triazole | 173 mmol, 17.5 g | SC1=NNC=N1 | C2H3N3S
reactant | tetrahydropyran-2-ylmethyl methanesulfonate | 173 mmol, 33.6 g | CS(=O)(=O)OCC1OCCCC1 | C7H14O4S
reactant | water | 200 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
product | 3-(Tetrahydropyran-2-yl)methylthio-1,2,4-triazole | O1C(CCCC1)CSC1=NNC=N1 | C8H13N3OS
